US09303035B2
(8S,10S)-10-(5-chlorofuran-2-yl)-1,3,8-trimethyl-5-(m-tolyl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione
The title compound was prepared from (S)-6-(2-hydroxypropyl)-1,3-dimethyl-5-m-tolyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione and 5-chlorofuran-2-carbaldehyde by an analogous method to Example 12. Purification was carried out by chromatography on silica eluting with 0-55% EtOAc in iso-hexane;

reactant | (S)-6-(2-hydroxypropyl)-1,3-dimethyl-5-m-tolyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | O[C@H](CN1C=C2N(C(N(C(C2=C1C=1C=C(C=CC1)C)=O)C)=O)C)C | C18H21N3O3
reactant | 5-chlorofuran-2-carbaldehyde | ClC1=CC=C(O1)C=O | C5H3ClO2
product | (8S,10S)-10-(5-chlorofuran-2-yl)-1,3,8-trimethyl-5-(m-tolyl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione | ClC1=CC=C(O1)[C@H]1O[C@H](CN2C1=C1C(=C2C=2C=C(C=CC2)C)C(N(C(N1C)=O)C)=O)C | C23H22ClN3O4
